US05455273
q) trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-methyl-N-(4-phenyl-3-butenoyl)cyclohexylamine
from trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-methylcyclohexylamine and 4-phenyl-3-butenoylchloride. Colourless oil. Rf value: 0.5 (silica gel, petroleum ether/ethyl acetate=1:1, v:v).

reactant | trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-methylcyclohexylamine | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)NC)CNC | C20H32N2O2
reactant | 4-phenyl-3-butenoylchloride | C1(=CC=CC=C1)C=CCC(=O)Cl | C10H9ClO
product | trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-methyl-N-(4-phenyl-3-butenoyl)cyclohexylamine | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)N(C(CC=CC1=CC=CC=C1)=O)C)CNC | C30H40N2O3
